US04197110
40 g of triethylamine (0.4 mole), then 43 g of dichloroacetyl chloride (0.3 mole) are added successively, while maintaining the temperature of the reaction mixture at about 0° C. to 41 g of 2-trichloromethyl-1,3-thiazolidine (0.2 mole), dissolved in 300 ml of ether. After the removal of the triethylamine hydrochloride formed in the reaction and washing the organic phase with water, the organic layer is concentrated by stripping part of the ether. By crystallization and filtration, 53 g (yield 82%) of 2-trichloromethyl-3-dichloroacetyl-1,3-thiazolidine of melting point 124° C. is obtained.

reactant | triethylamine | 0.4 mole, 40 g | C(C)N(CC)CC | C6H15N
reactant | dichloroacetyl chloride | 0.3 mole, 43 g | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | 2-trichloromethyl-1,3-thiazolidine | 0.2 mole | ClC(C1SCCN1)(Cl)Cl | C4H6Cl3NS
solvent | ether | 300 ml | CCOCC | C4H10O
product | 2-trichloromethyl-3-dichloroacetyl-1,3-thiazolidine | 53 g, yield 82% | ClC(C1SCCN1C(C(Cl)Cl)=O)(Cl)Cl | C6H6Cl5NOS
